US06339154B1
(1) 3-(2-Hydroxyphenyl)-1-(4-methylpiperazino)-1-propanone
N-Methylpiperazine (1.23 g) was added to 3,4-dihydrocoumarine (1.80 g) and stirred for 2 hours at 80° C., thereby yielding the entitled compound (3.12 g) as pale brown solid.

reactant | N-Methylpiperazine | 1.23 g | CN1CCNCC1 | C5H12N2
reactant | 3,4-dihydrocoumarine | 1.80 g | O1C(=O)CCC2=CC=CC=C12 | C9H8O2
product | 3-(2-Hydroxyphenyl)-1-(4-methylpiperazino)-1-propanone | 3.12 g | OC1=C(C=CC=C1)CCC(=O)N1CCN(CC1)C | C14H20N2O2
